US05296454
The 2-(3-thienyl)propionic acid (22.9 g) was dissolved in chloroform (60 ml), to which was added thionyl chloride (20 g), followed by 30 minutes refluxing. The reaction was carried out in a similar manner to the foregoing Example 9 to obtain 2-(3-thienyl)propionic acid chloride with bp 76°-78° C./2.0 torr.

reactant | 2-(3-thienyl)propionic acid | 22.9 g | S1C=C(C=C1)C(C(=O)O)C | C7H8O2S
reactant | thionyl chloride | 20 g | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(3-thienyl)propionic acid chloride | S1C=C(C=C1)C(C(=O)Cl)C | C7H7ClOS
